US05025025
A solution of 0.47 mL dimethylsulfoxide in 19 mL methylene chloride is cooled to -70° C. and 0.41 mL oxalyl chloride is added slowly. The solution is stirred at -70° C. for 15 minutes and a solution of 0.38 g of methyl 8-(p-chlorophenylsulfonamido)-4-(2-hydroxyethyl)octanoate in 1 mL methylene chloride is added slowly. The solution is stirred at -60° C. for 15 minutes and 1.9 mL triethylamine is added. The mixture is allowed to warm up to room temperature, washed with saturated sodium bicarbonate solution, and the organic phase is dried, filtered and evaporated to obtain a yellow oil. This oil is taken up in ether and washed with saturated sodium bicarbonate solution. The ether layer is dried, filtered and evaporated to yield methyl 8-(p-chlorophenylsulfonamido)4-(formylmethyl)-octanoate.

reactant | dimethylsulfoxide | 0.47 mL | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 0.41 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methyl 8-(p-chlorophenylsulfonamido)-4-(2-hydroxyethyl)octanoate | 0.38 g | ClC1=CC=C(C=C1)S(=O)(=O)NCCCCC(CCC(=O)OC)CCO | C17H26ClNO5S
reactant | triethylamine | 1.9 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 19 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | methyl 8-(p-chlorophenylsulfonamido)4-(formylmethyl)-octanoate | ClC1=CC=C(C=C1)S(=O)(=O)NCCCCC(CCC(=O)OC)CC=O | C17H24ClNO5S
